US07342119B2
SYNTHESIS OF BENZHYDRYL-(4-CHLORO-2-IODO-PHENYL)-AMINE
To a nitrogen purged 2 L three necked flask equipped with addition funnel, overhead stirrer and reflux condenser was charged 150 g(0.591 mol) 4-Chloro-2-iodo-phenylamine, 3 g(0.018 mol, 0.03 eq) benzenesulfonic acid and 500 mL acetontrile. The mixture was warmed to 70 C and 120 g (0.652 mol, 1.1 eq) benzhydrol dissolved in 500 mL acetonitrile was added to the stirred warm solution over a period of 7.5 h. After another 4 h, LC analysis showed 95% product and 5% starting material remaining. The mixture was cooled to 25 C and 290 mL water was added dropwise over a period of 30-40 min. Stirring was continued over night at 23 C. The dark purple solid was collected by filtration, washed with 2× withMeCN/water 1/1 dried at 50 C in vacuo for 15 h to give 218.5 g (88%) product.

reactant | 4-Chloro-2-iodo-phenylamine | 0.591 mol, 150 g | ClC1=CC(=C(C=C1)N)I | C6H5ClIN
reactant | benzhydrol | 0.652 mol, 120 g, 1.1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | water | 290 mL | O | H2O
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
catalyst | benzenesulfonic acid | 0.018 mol, 3 g, 0.03 eq | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
product | BENZHYDRYL-(4-CHLORO-2-IODO-PHENYL)-AMINE | 218.5 g, 88% | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=C(C=C1)Cl)I | C19H15ClIN
